US05516932
Synthesis of 2,4-dichloro-5-fluorophenyldiazonium tetrafluoroborate
165 ml of tetrahydrofuran are added to 100 g of 2,4-dichloro-5-fluoroaniline at room temperature. To this solution are added 333 ml of tetrafluoroboric acid (50% strength) with cooling. 57.5 g of sodium nitrite in 117 ml of water are added to the reaction mixture cooled to 5°-10° C. in such a way that the internal temperature is 7°-13° C. After addition is completed, the 0° C. solution is filtered. The residue is washed with tetrahydrofuran and ice-cold water. 121 g of product remain.

reactant | tetrahydrofuran | 165 ml | O1CCCC1 | C4H8O
reactant | 2,4-dichloro-5-fluoroaniline | 100 g | ClC1=C(N)C=C(C(=C1)Cl)F | C6H4Cl2FN
reactant | tetrafluoroboric acid | 333 ml | F[B-](F)(F)F.[H+]
reactant | sodium nitrite | 57.5 g | N(=O)[O-].[Na+]
solvent | water | 117 ml | O | H2O
product | 2,4-dichloro-5-fluorophenyldiazonium tetrafluoroborate | F[B-](F)(F)F.ClC1=C(C=C(C(=C1)Cl)F)[N+]#N | InChI=1S/C6H2Cl2FN2.BF4/c7-3-1-4(8)6(11-10)2-5(3)9;2-1(3,4)5/h1-2H;/q+1;-1
